US04220761
A solution of 7-amino-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (4.6 g), trimethylsilylacetamide (7.86 g) and bis(trimethylsilyl)acetamide (4.0 g) in ethyl acetate (50 ml) and a solution of dimethylformamide (0.804 g), phosphoryl chloride (1.69 g) and 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 12.3 g) were treated in a similar manner to that of Example 1-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 4.2 g).

reactant | 7-amino-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 4.6 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O | C16H21N5O5S3
reactant | trimethylsilylacetamide | 7.86 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 4.0 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | phosphoryl chloride | 1.69 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetic acid | 12.3 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.804 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 4.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOC | C23H26N8O8S4
